US08034811B2
O-(2-Cyclopentyl-ethyl)-hydroxylamine
Prepared by a similar procedure as described for preparation 31. Starting materials: N-hydroxyphthalimide and 2-cyclopentylethanol (Lancaster). 13C-NMR (CDCl3) δ 75.7, 37.0, 34.6, 32.8, 25.1.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-cyclopentylethanol | C1(CCCC1)CCO | C7H14O
product | O-(2-Cyclopentyl-ethyl)-hydroxylamine | C1(CCCC1)CCON | C7H15NO
